US07674793B2
3-Bromo-4-fluoro-[bis-(2-hydroxy-6-oxo-cyclohex-1-enyl)-amino]-benzene
Following the procedure described in the Example 1, using 2-diazo-cyclohexane-1,3-dione and 3-bromo-4-fluoroaniline as starting materials to yield the title compound as a white solid.

reactant | 2-diazo-cyclohexane-1,3-dione | [N+](=[N-])=C1C(CCCC1=O)=O | C6H6N2O2
reactant | 3-bromo-4-fluoroaniline | BrC=1C=C(N)C=CC1F | C6H5BrFN
product | 3-Bromo-4-fluoro-[bis-(2-hydroxy-6-oxo-cyclohex-1-enyl)-amino]-benzene | BrC=1C=C(C=CC1F)N(C1=C(CCCC1=O)O)C1=C(CCCC1=O)O | C18H17BrFNO4
